US07713993B2
Synthesis of 3-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5-((S)-1-phenylethyl)-4H-[1,2,4]triazole
A solution of ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate (30 mg) and TEA (35 ul) in ethanol (0.5 ml) was added to a solution of (S)-2-phenylpropionic acid hydrazide monohydrochloride (37 mg) and TEA (35 uL) in ethanol (0.5 mL), and the reaction solution was stirred at 75° C. for 19 hours. The reaction solution was left to cool to room temperature. Then, ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The organic layer washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: ethyl acetate-ethanol system) to obtain 13.5 mg of the title compound with positive optical rotation. The property values of the compound are as follows.

reactant | ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate | 30 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(OCC)=N | C16H19N3O2
reactant | (S)-2-phenylpropionic acid hydrazide monohydrochloride | 37 mg | Cl.C1(=CC=CC=C1)[C@@H](C(=O)NN)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 3-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5-((S)-1-phenylethyl)-4H-[1,2,4]triazole | 13.5 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C1=NN=C(N1)[C@@H](C)C1=CC=CC=C1 | C23H23N5O
